US08975400B2
2-(3,5-difluorophenoxy)-5-formylbenzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 2-fluoro-5-formylbenzonitrile and 3,5-difluorophenol.

reactant | 2-fluoro-5-formylbenzonitrile | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
reactant | 3,5-difluorophenol | FC=1C=C(C=C(C1)F)O | C6H4F2O
product | 2-(3,5-difluorophenoxy)-5-formylbenzonitrile | FC=1C=C(OC2=C(C#N)C=C(C=C2)C=O)C=C(C1)F | C14H7F2NO2
